US04017497
7-Methoxy-2-oxo-1,2,3,4-tetrahydro-1-naphthalene acetonitrile (1)
A mixture of 7-methoxy-2-tetralone (472 g., 2.68 mole), pyrrolidine (241 g., 3.40 mole) and benzene (2.5l) was refluxed under nitrogen with water separation (Dean-Stark trap) for 2 hrs. and then distilled for a further 1 hr. (1.2l) of distillate). Chloroacetonitrile (324 g., 4.30 mole) was added during 15 mins. and the mixture was refluxed for 4 hrs. and then left at room temperature overnight. Water (1.5l) was added and the mixture was refluxed for 3 hrs. The organic layer was separated while still hot, washed with 3N sulphuric acid (500 ml.) and filtered with suction through a pad of magnesium sulphate. The product crystallized from benzene and from benzene-ether (two crops) as yellow prisms (484 g., 84%); m.p. 97°-99° C.

reactant | 7-methoxy-2-tetralone | 2.68 mole, 472 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | pyrrolidine | 3.40 mole, 241 g | N1CCCC1 | C4H9N
reactant | benzene | 2.5l | C1=CC=CC=C1 | C6H6
reactant | Chloroacetonitrile | 4.30 mole, 324 g | ClCC#N | C2H2ClN
solvent | Water | 1.5l | O | H2O
product | 7-Methoxy-2-oxo-1,2,3,4-tetrahydro-1-naphthalene acetonitrile | COC1=CC=C2CCC(C(C2=C1)CC#N)=O | C13H13NO2
